US06215016B1
Similar to Example 150, 6.81 g (21.9 mmol, 73%) of a methyl ester compound was obtained as orange crystals from 6.08 g (0.0 mmol recrystallized from 3 methanol) of monomethyl ester of azelaic acid and 3.78 g (30.0 mmol) of 4-hydroxy-6-methyl-2-pyrone by recrystallization from methanol.

reactant | azelaic acid | C(CCCCCCCC(=O)O)(=O)O | C9H16O4
reactant | methanol | CO | CH4O
product | 4-hydroxy-6-methyl-2-pyrone | 30.0 mmol, 3.78 g | OC1=CC(OC(=C1)C)=O | C6H6O3
